US08912325B2
Step I: Preparation of 4-(4-methylpiperazin-1-ylmethyl)benzoyl chloride dihydrochloride
A mixture of 4-(4-methylpiperazin-1-ylmethyl) benzoic acid dihydrochloride (150 g), thionyl chloride (600 ml) and N,N-dimethylformamide (37.2 ml) was refluxed for 20 hours. After completion of reaction, the reaction mass was distilled out completely under vacuum to give residue which was diluted with dichloromethane (300 ml). The solid thus precipitated was filtered and washed to give 135 g of the title compound.

reactant | 4-(4-methylpiperazin-1-ylmethyl) benzoic acid dihydrochloride | 150 g | Cl.Cl.CN1CCN(CC1)CC1=CC=C(C(=O)O)C=C1
reactant | thionyl chloride | 600 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 37.2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-(4-methylpiperazin-1-ylmethyl)benzoyl chloride dihydrochloride | 135 g | Cl.Cl.CN1CCN(CC1)CC1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C13H17ClN2O.2ClH/c1-15-6-8-16(9-7-15)10-11-2-4-12(5-3-11)13(14)17;;/h2-5H,6-10H2,1H3;2*1H
